US06096736
To 2-chloro-4-pyrrolidinylbenzoic acid (1 g) is added thionyl chloride (10 ml), and a drop of N-methylpyrrolidone is added to the mixture. The mixture is stirred at room temperature for one hour. Subsequently, the mixture is concentrated under reduced pressure, and the residue is dissolved in toluene (10 ml), and further concentrated under reduced pressure to give 2-chloro-4-pyrrolidinylbenzoyl chloride (acid chloride) as a pale yellow powder. Separately, (5R)-5-isopropylaminocarbonylmethyl-2,3,4,5-tetrahydro-1H-benzazepine (1 g) is dissolved in dichloromethane (20 ml), and thereto is added pyridine (1.64 ml). To the mixture is added drowpise with stirring a solution of the above obtained acid chloride in dichloromethane (5 ml) at room temperature. The mixture is stirred for one hour, and thereto is added 1N aqueous sodium hydroxide solution (10 ml), and then stirred for 30 minutes. The mixture is extracted with ethyl acetate (20 ml), and the extract is dried over sodium carbonate, crystallized from acetonitrile, and further recrystallized from acetone--n-hexane to give (5R)-5-isopropylaminocarbonylmethyl-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.45 g).

reactant | 2-chloro-4-pyrrolidinylbenzoic acid | 1 g | ClC1=C(C(=O)O)C=CC(=C1)N1CCCC1 | C11H12ClNO2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 2-chloro-4-pyrrolidinylbenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)N1CCCC1 | C11H11Cl2NO
